US07598267B2
Preparation of 4-[cyano(diphenyl)methyl]-1-ethyl-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 7, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile (0.0495 g, 0.164 mmol) and bromoethane (0.025 mL, 0.335 mmol) in 2CH3CN/3CHCl3 (4.0 mL) were reacted to give the desired product (0.0456 g, 68.1%). EI-MS m/z 331 (M+) Rt (1.80 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile | 0.164 mmol, 0.0495 g | N12CCC(CC1)(CC2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C21H22N2
reactant | bromoethane | 0.335 mmol, 0.025 mL | BrCC | C2H5Br
product | 4-[cyano(diphenyl)methyl]-1-ethyl-1-azoniabicyclo[2.2.2]octane bromide | 0.0456 g, 68.1% | [Br-].C(#N)C(C12CC[N+](CC1)(CC2)CC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C23H27N2.BrH/c1-2-25-16-13-22(14-17-25,15-18-25)23(19-24,20-9-5-3-6-10-20)21-11-7-4-8-12-21;/h3-12H,2,13-18H2,1H3;1H/q+1;/p-1
